US07592477B2
Step a) Formation of N-(4-bromobenzyl)-N-(4-oct-1-ynylbenzyl)amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-oct-1-ynylbenzaldehyde and 4-bromobenzylamine gave the title compound as a colorless oil (86%). 1H NMR (CDCl3, 300 MHz) δ 7.47 (d, J=8.3 Hz, 2H), 7.38 (d, J=8.3 Hz, 2H), 7.30-7.19 (m, 4H), 3.78 (s, 2H), 3.75 (s, 2H), 2.42 (t, J=6.8 Hz, 2H), 1.69-1.55 (m, 2H), 1.54-1.42 (m, 2H), 1.42-1.27 (m, 4H), 0.93 (t, J=6.8 Hz, 3H). M+(LC/MS(ESI)): 384.4 HPLC (Condition A), Rt: 4.18 min (HPLC purity: 97.6%).

reactant | 4-oct-1-ynylbenzaldehyde | C(#CCCCCCC)C1=CC=C(C=O)C=C1 | C15H18O
reactant | 4-bromobenzylamine | BrC1=CC=C(CN)C=C1 | C7H8BrN
product | N-(4-bromobenzyl)-N-(4-oct-1-ynylbenzyl)amine | 86% | BrC1=CC=C(CNCC2=CC=C(C=C2)C#CCCCCCC)C=C1 | C22H26BrN
